US05852190
Step 1: 5-methylindoline.
28.74 g (457 mmol) of sodium cyanoborohydride are added in small portions at below 20° C. to a solution of 20.0 g (152 mmol) of 5-methylindole in 300 ml of glacial acetic acid. The addition, which is slightly exothermic, is made over 3 hours and is accompanied by slight evolution of hydrogen. The mixture is stirred for 12 hours at below 20° C., and then 300 ml of water are added and the pH of the reaction medium is adjusted to between 10 and 12 by addition of 500 ml of 30% sodium hydroxide solution. The mixture is extracted twice with dichloromethane and the organic phase is washed with 100 ml of water. It is evaporated and the residue is purified by flash chromatography on a silica column, the eluent used being a mixture of increasing polarity of methanol in methylene chloride. 15.3 g (yield=75%) are obtained of a colourless oil which develops a brown colour on storage (under a nitrogen atmosphere with the exclusion of light).

reactant | sodium cyanoborohydride | 457 mmol, 28.74 g | C(#N)[BH3-].[Na+]
reactant | 5-methylindole | 152 mmol, 20.0 g | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 500 ml | [OH-].[Na+]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 5-methylindoline | yield=75% | CC=1C=C2CCNC2=CC1 | C9H11N
